* C:\Users\vanvi\OneDrive\Documents\GitHub\SRAD-Avionics\Valve Controller\sim\Valve Controller.asc
V1 Vdd 0 PULSE(0 12 200m 1n 1n 1.5)
M1 N001 N002 0 0 AO6408
R1 N001 Vdd 7.19
R2 N002 Vdd 1k
R3 N002 0 100k
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\vanvi\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 2s
.backanno
.end
